US05643958
(3) Preparation of (2RS,3RS)-3-tert-butoxycarbonyl-5-oxotetrahydrofuran-2-carboxylic Acid
148 mg of 3-tert-butyl 2-diphenylmethyl (2RS,3RS)-5-oxotetrahydrofuran-2,3-dicarboxylate was dissolved in 4 ml of ethyl acetate, and 15 mg of a 10% palladium-carbon catalyst was added thereto, followed by catalytic reduction for 15 hours at room temperature under hydrogen atmospheric pressure. The catalyst was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was washed with benzene to obtain 66 mg of above-identified compound as white crystalline powder.

reactant | 3-tert-butyl 2-diphenylmethyl (2RS,3RS)-5-oxotetrahydrofuran-2,3-dicarboxylate | 148 mg | O=C1CC(C(O1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C23H24O6
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | [C].[Pd]
product | (2RS,3RS)-3-tert-butoxycarbonyl-5-oxotetrahydrofuran-2-carboxylic Acid | 66 mg | C(C)(C)(C)OC(=O)C1C(OC(C1)=O)C(=O)O | C10H14O6
